US04330546
N-Methyl-3-phenyl-3-(2-quinolyloxy)propylamine
Following the method of Example 4, reaction of 3-hydroxy-N-methyl-3-phenylpropylamine, sodium hydride and 2-chloroquinoline in DMSO gives the title compound.

reactant | 3-hydroxy-N-methyl-3-phenylpropylamine | OC(CCNC)C1=CC=CC=C1 | C10H15NO
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloroquinoline | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
solvent | DMSO | CS(=O)C | C2H6OS
product | N-Methyl-3-phenyl-3-(2-quinolyloxy)propylamine | CNCCC(OC1=NC2=CC=CC=C2C=C1)C1=CC=CC=C1 | C19H20N2O
